### PR TITLE
Modify lia to work with -mangle-names

### LINKED ISSUE #12907: lia fails with name mangling
#### Description of the problem

The following proof script fails:
```coq
From Coq Require Export Lia.
Set Mangle Names.
Lemma test (n : nat) : n <= 10 -> n <= 20.
Proof. lia. Qed.
```
It says
```
Error: The variable __ff was not found in the current environment.
```

#### Coq Version

Current Coq master

### PR DESCRIPTION
**Pull request by jashug**
We used to be refreshing the names for intros but not using the refreshed names. The same pattern of `intro_using` (which is what `intros ?name` effectively is) messing things up as in coq/coq#12881.

**Kind:** bug fix

Closes #12907

- [x] Added / updated test-suite

### CODE REVIEW

**Comment by jashug** [comment]
@maximedenes Looks like you might be a good assignee for this one, being in micromega-maintainers?

**Comment by maximedenes** [comment]
> Looks like you might be a good assignee for this one, being in micromega-maintainers?

Sure, thanks a lot for the patch!

**Review by maximedenes — APPROVED** [review]
I didn't check if the patch was complete, but certainly looks correct.

File: theories/micromega/Lia.v [hunk 1]
```diff
@@ -20,7 +20,10 @@ Require Coq.micromega.Tauto.
 Declare ML Module "micromega_plugin".
 
 Ltac zchecker :=
-  intros ?__wit ?__varmap ?__ff ;
+  let __wit := fresh "__wit" in
+  let __varmap := fresh "__varmap" in
+  let __ff := fresh "__ff" in
```
Comment (SkySkimmer) [inline theories/micromega/Lia.v:25]: Won't mangle names generate the same thing for each fresh?

Comment (maximedenes) [reply theories/micromega/Lia.v:25]: This would mean mangle names breaks the spec of `fresh`, cf https://coq.github.io/doc/master/refman/proof-engine/ltac.html#coq:tacn.fresh

Comment (SkySkimmer) [reply theories/micromega/Lia.v:25]: ok then

Comment (maximedenes) [reply theories/micromega/Lia.v:25]: I'm not saying it's ok, we still need to check it is not the case, though. My point was simply that it would be a mangle-names bug.

Comment (SkySkimmer) [reply theories/micromega/Lia.v:25]: The new test passes so it is ok

**Comment by maximedenes** [comment]
@coqbot merge now
